US07750155B2
To a solution of (2E)-3-[5-({(3R)-1-[2-(dimethylamino)benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (236 mg) in MeOH (3.5 mL) was added 2N—HCl solution in EtOH (1.27 mL), which was stirred at room temperature for 1 hour. To the reaction mixture was dropwised IPE (9.4 mL), which was stirred further more 1 hour. The prepicitate was filtered to give (2E)-3-[5-({(3R)-1-[2-(dimethylamino) benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide trihydrochloride as a yellow powder (241 mg).

reactant | (2E)-3-[5-({(3R)-1-[2-(dimethylamino)benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 236 mg | CN(C1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=CC=C1)C | C25H34N6O3
reactant | HCl | Cl | ClH
solvent | MeOH | 3.5 mL | CO | CH4O
solvent | EtOH | 1.27 mL | CCO | C2H6O
product | (2E)-3-[5-({(3R)-1-[2-(dimethylamino) benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide trihydrochloride | 241 mg | Cl.Cl.Cl.CN(C1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NO)C=CC=C1)C | InChI=1S/C20H26N6O2.3ClH/c1-25(2)18-6-4-3-5-15(18)13-26-10-9-17(14-26)23-19-12-21-16(11-22-19)7-8-20(27)24-28;;;/h3-8,11-12,17,28H,9-10,13-14H2,1-2H3,(H,22,23)(H,24,27);3*1H/b8-7+;;;/t17-;;;/m1.../s1
